US08754079B2
17.4 4-(4-Fluoro-2-(cis-3-(N-methylamino)cyclohexyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
220 μl 4 M HCl in dioxane was added to 0.093 g tert-butyl 3-(2-(6-carbamoyl-5-methylthieno[2,3-d]pyrimidin-4-ylamino)-5-fluorophenoxy)cyclohexyl(methyl)carbamate (cpd. 17.3) in 4 ml dioxane. The reaction mixture was stirred for 1 h at rt when further aliquots of 4 M HCl in dioxane were added. methanol was added and the mixture stirred for 2 days at rt. The mixture was purified by chromatography (gradient: CH2Cl2→20% MeOH/CH2Cl2 using the Biotage SP4).

reactant | HCl | 4 M, 220 μl | Cl | ClH
reactant | tert-butyl 3-(2-(6-carbamoyl-5-methylthieno[2,3-d]pyrimidin-4-ylamino)-5-fluorophenoxy)cyclohexyl(methyl)carbamate | 0.093 g | C(N)(=O)C1=C(C2=C(N=CN=C2NC2=C(OC3CC(CCC3)N(C(OC(C)(C)C)=O)C)C=C(C=C2)F)S1)C | C26H32FN5O4S
reactant | HCl | 4 M | Cl | ClH
reactant | methanol | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Fluoro-2-(cis-3-(N-methylamino)cyclohexyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2C[C@@H](CCC2)NC | C21H24FN5O2S
